US05607956
3-Trifluoroacetylfuran
3-Bromofuran (20 g) was added to a solution of n-butyllithium (2.5M in hexanes, 60 ml) in diethyl ether (200 ml) at -70° C. After 30 minutes, ethyl trifluoroacetate (28.6 g) was added slowly. After a further 1 hour the mixture was allowed to warm to room temperature and was then left to stir overnight. 1M Hydrochloric acid (100 ml) was added and the mixture stirred for 5 minutes. The organic layer was separated,

reactant | 3-Bromofuran | 20 g | BrC1=COC=C1 | C4H3BrO
reactant | n-butyllithium | 2.5M, 60 ml | C(CCC)[Li]
reactant | ethyl trifluoroacetate | 28.6 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | Hydrochloric acid | 1M, 100 ml | Cl | ClH
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-Trifluoroacetylfuran | FC(C(=O)C1=COC=C1)(F)F | C6H3F3O2
